US07087597B1
ethyl 2-[(R)-2-methyl-2,3-dihydro-1H-indol-1-yl]-4-[(RS)-1-phenylethoxy]-5-pyrimidinecarboxylate
In the same manner as in Reference Example 3-1 using ethyl 4-hydroxy-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate and ethyl 4-hydroxy-2-[(R)-2-methyl-2,3-dihydro-1H-indol-1-yl]-5-pyrimidinecarboxylate as starting materials, compounds of Reference Examples 26 and 27 were synthesized.

reactant | ethyl 4-hydroxy-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate | OC1=NC(=NC=C1C(=O)OCC)N1CCC2=CC=CC=C12 | C15H15N3O3
reactant | ethyl 4-hydroxy-2-[(R)-2-methyl-2,3-dihydro-1H-indol-1-yl]-5-pyrimidinecarboxylate | OC1=NC(=NC=C1C(=O)OCC)N1[C@@H](CC2=CC=CC=C12)C | C16H17N3O3
product | ethyl 2-[(R)-2-methyl-2,3-dihydro-1H-indol-1-yl]-4-[(RS)-1-phenylethoxy]-5-pyrimidinecarboxylate | C[C@H]1N(C2=CC=CC=C2C1)C1=NC=C(C(=N1)OC(C)C1=CC=CC=C1)C(=O)OCC | C24H25N3O3
